US07576135B2
2-(4-ethynylanilino)-2-oxoacetic acid methyl ester
The method described in Referential Example 242 was performed by use of 4-ethynylaniline and methyl chlorooxoacetate, whereby the title compound was obtained.

reactant | 4-ethynylaniline | C(#C)C1=CC=C(N)C=C1 | C8H7N
reactant | methyl chlorooxoacetate | ClC(C(=O)OC)=O | C3H3ClO3
product | 2-(4-ethynylanilino)-2-oxoacetic acid methyl ester | COC(C(=O)NC1=CC=C(C=C1)C#C)=O | C11H9NO3
